US07524813B2
(2S)-2-Amino-6-(4-oxo-4-phenylbutyrylamino)hexanoic acid amide
Trifluoroacetic acid (25 ml) was added to a solution of [(1S)-1-carbamoyl-5-(4-oxo-4-phenylbutyrylamino)pentyl]carbamic acid tert-butyl ester (0.56 g, 1.38 mmol) in dichloromethane (25 ml). The reaction mixture was stirred for 1 h at room temperature. The solvent was removed. The crude product was purified by HPLC on a RP-18 column, using a gradient of 20-45% acetonitrile in water, containing 0.1% of trifluoracetic acid as buffer to give 92 mg of the title compound with a purity of approx. 85%, which was used for the further experiments.

reactant | Trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | [(1S)-1-carbamoyl-5-(4-oxo-4-phenylbutyrylamino)pentyl]carbamic acid tert-butyl ester | 1.38 mmol, 0.56 g | C(C)(C)(C)OC(N[C@@H](CCCCNC(CCC(C1=CC=CC=C1)=O)=O)C(N)=O)=O | C21H31N3O5
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (2S)-2-Amino-6-(4-oxo-4-phenylbutyrylamino)hexanoic acid amide | 92 mg | N[C@H](C(=O)N)CCCCNC(CCC(C1=CC=CC=C1)=O)=O | C16H23N3O3
